US07947851B2
Step b) Formation of methyl 5-{[({4-[(4-butylphenyl)ethynyl]phenyl}sulfonyl) (hexyl)amino]methyl}-2-fluorobenzoate
To a solution of methyl 5-{[[(4-bromophenyl)sulfonyl](hexyl)amino]methyl}-2-fluorobenzoate (96 mg; 0.20 mmol) in DMF (5 mL) were added (Aldrich, p-butylphenylacetylene (31 mg; 0.20 mmol), bis(triphenylphosphine) palladium (II) chloride (6.9 mg; 0.01 mmol), copper(I) iodide (1.9 mg; 0.01 mmol), triphenylphosphine (10.4 mg; 0.04 mmol) and TEA (0.08 mL; 0.59 mmol). The mixture was stirred for 1500 s at 150° C. under MW. The mixture was diluted with Et2O (50 mL) and the precipitate obtained filtrated off. Filtrate was washed with HCl 1N and with brine (75 mL). The organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure. Purification by flash chromatography using silicagel (c-Hex:EtOAc, 9:1 then 1:1) gave 66 mg (63.3%) of the title compound as a white solid. HPLC: Rt=6.12 min (purity=99.6%). LC/MS: M+(ESI): 564.4. 1H NMR (CDCl3) δ: 7.79 (d, J=8.3 Hz, 3H) 7.64 (d, J=8.7 Hz, 2H), 7.56 (m, 1H), 7.46 (d, J=8.3 Hz, 2H), 7.19 (d, J=7.9 Hz, 2H), 7.15 (s, 1H), 4.33 (s, 2H), 3.92 (s, 3H), 3.11 (t, J=7.5 Hz, 2H), 2.63 (t, J=7.7 Hz, 2H), 1.61 (t, J=7.7 Hz, 2H), 1.35 (m, 5H), 1.15 (m, 5H), 0.93 (t, J=7.3 Hz, 3H), 0.81 (t, J=6.9 Hz, 3H).

reactant | methyl 5-{[[(4-bromophenyl)sulfonyl](hexyl)amino]methyl}-2-fluorobenzoate | 0.20 mmol, 96 mg | BrC1=CC=C(C=C1)S(=O)(=O)N(CCCCCC)CC=1C=CC(=C(C(=O)OC)C1)F | C21H25BrFNO4S
reactant | p-butylphenylacetylene | 0.20 mmol, 31 mg | C(CCC)C1=CC=C(C=C1)C#C | C12H14
reactant | triphenylphosphine | 0.04 mmol, 10.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 50 mL | CCOCC | C4H10O
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.01 mmol, 6.9 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 0.01 mmol, 1.9 mg | [Cu]I
product | methyl 5-{[({4-[(4-butylphenyl)ethynyl]phenyl}sulfonyl) (hexyl)amino]methyl}-2-fluorobenzoate | 66 mg, 63.3% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)N(CCCCCC)CC=1C=CC(=C(C(=O)OC)C1)F | C33H38FNO4S
